US04268625
(d) Synthesis of 5-(3-Chlorosulfonylbenzenesulfonamido)-1-naphthol
To a stirred mixture of 2.1 g of 5-amino-1-naphthol (1/2 H2SO4 salt), 4.2 g of benzene-1,3-disulfonyl chloride, 10 ml of acetonitrile and 30 ml of methanol was added portionwise 3.4 g of sodium hydrogen carbonate at a temperature of 0° to 5° C. The mixture was stirred for 1 hour at 0° to 5° C. and poured into 300 ml of a 3% hydrochloric acid aqueous solution. The precipitated crude product was collected by filtration and recrystallized from benzene-ethyl acetate (1:1 by volume) to produce 2.9 g of the title compound.

reactant | 5-amino-1-naphthol | 2.1 g | NC1=C2C=CC=C(C2=CC=C1)O | C10H9NO
reactant | benzene-1,3-disulfonyl chloride | 4.2 g | C1(=CC(=CC=C1)S(=O)(=O)Cl)S(=O)(=O)Cl | C6H4Cl2O4S2
reactant | sodium hydrogen carbonate | 3.4 g | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 5-(3-Chlorosulfonylbenzenesulfonamido)-1-naphthol | 2.9 g | ClS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)NC1=C2C=CC=C(C2=CC=C1)O | C16H12ClNO5S2
